US05747500
1-allyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione;
1-(2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-cinnamyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(methoxycarbonylallyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(carboxyallyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(4-chloro-2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-propargyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(2-butynyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(3-phenyl-2-propynyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(2-pentenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(4-hydroxy-2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione;

reactant | 1-(2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H22N2O2S
reactant | 1-cinnamyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CC1=CC=CC=C1)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C23H24N2O2S
reactant | 1-(methoxycarbonylallyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | COC(=O)C=CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C19H22N2O4S
reactant | 1-(carboxyallyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(=O)(O)C=CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H20N2O4S
reactant | 1-(4-chloro-2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | ClCC=CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H21ClN2O2S
reactant | 1-propargyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C#C)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C17H18N2O2S
reactant | 1-(2-butynyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C#CC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H20N2O2S
reactant | 1-(3-phenyl-2-propynyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C1(=CC=CC=C1)C#CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C23H22N2O2S
reactant | 1-(2-pentenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CCC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C19H24N2O2S
reactant | 1-(4-hydroxy-2-butenyl)-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | OCC=CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H22N2O3S
product | 1-allyl-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=C)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C17H20N2O2S
